US07939569B1
To a round bottom flask containing {acetyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-amino}-acetic acid ethyl ester (10 mg, 0.02 mmol) was added lithium hydroxide hydrate (2 mg, 0.05 mmol), tetrahydrofuran (0.5 mL) and water (0.5 mL). The reaction was stirred at room temperature overnight, diluted with ethyl acetated (25 mL) and washed with aqueous HCl (0.1 M, 25 mL) and brine (25 mL), dried over magnesium sulfate, concentrated and dried from hexanes/methylene chloride mixtures to yield {acetyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-amino}-acetic acid as an off white solid (12 mg, 127%) LC-MS (ES) calculated for C24H21F2NO5, 441.14; found m/z 442 [M+H]+.

reactant | {acetyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-amino}-acetic acid ethyl ester | 0.02 mmol, 10 mg | C(C)OC(CN(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)C(C)=O)=O | C26H25F2NO5
reactant | lithium hydroxide hydrate | 0.05 mmol, 2 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | {acetyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-amino}-acetic acid | C(C)(=O)N(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)CC(=O)O | C24H21F2NO5
